US06576247B1
After 300 mg of potassium carbonate were added to 10 g of triethyl citrate and 13.3 g of phenylethyl alcohol, stirring was continued under heating for 6 hours while removing ethanol formed. After the end of the reaction, an ether layer was washed with 50 ml of diethyl ether and with 50 ml of purified water. The ether layer was dried with magnesium sulfide and then concentrated under reduced pressure. Distillation under reduced pressure was further carried out to remove unreacted phenylethyl alcohol and triethyl citrate. As a bottom residue after the distillation, 7.4 g of a citric acid phenylethyl ester derivative were obtained. According to a GC-MS analysis, it was confirmed the production of monophenylethyldiethyl citrate and diphenylethylmonoethyl citrate.

reactant | triethyl citrate | 10 g | C(CC(O)(C(=O)OCC)CC(=O)OCC)(=O)OCC | C12H20O7
reactant | phenylethyl alcohol | 13.3 g | C1(=CC=CC=C1)CCO | C8H10O
catalyst | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
product | citric acid phenylethyl ester | 7.4 g | C1(=CC=CC=C1)CCOC(CC(O)(C(=O)O)CC(=O)O)=O | C14H16O7
